US08536179B2
To a stirred solution of 21 wt % sodium ethoxide in EtOH (4.2 g, 12.96 mmol) in EtOH (30 mL) was added 2-cyanoacetamide (1.1 g, 13.08 mmol). The reaction was stirred for 15 min. then a solution of 5-(4-morpholinyl)-3-pentyn-2-one (2.0 g, 11.96 mmol) in EtOH was added to the reaction in one portion. (The reaction quickly turned dark red.) The reaction was stirred overnight at RT, neutralized with 6 N HCl (2.17 mL, 13.02 mmol) and evaporated to dryness under vacuum. Dried under vacuum overnight. The reamaining dark solid was triturated with a solution of (9:1) CH2Cl2, MeOH (50 mL), filtered from insoluble material, washed with (9:1) CH2Cl2, MeOH, and the filtrate evaporated to dryness under vacuum. The dark solid was triturated with a solution of (1:1) EtOAc in hexanes, filtered, washed with (1:1) EtOAc in hexanes, and dried under vacuum to give a brown solid (removed a lot of fast running non-polar impurities). The crude product was purified by silica gel chromatography (Analogix, SF25-60 g, 0 to 15% CH2Cl2/20% (5% NH4OH in MeOH) in CH2Cl2). The pure fractions were combined, evaporated to dryness, triturated with hexanes and dried under vacuum to give the product 6-methyl-4-(4-morpholinylmethyl)-2-oxo-1,2-dihydro-3-pyridinecarbonitrile (0.90 g, 3.86 mmol, 32.3% yield) as a light tan solid.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2-cyanoacetamide | 13.08 mmol, 1.1 g | C(#N)CC(=O)N | C3H4N2O
reactant | 5-(4-morpholinyl)-3-pentyn-2-one | 11.96 mmol, 2.0 g | N1(CCOCC1)CC#CC(C)=O | C9H13NO2
reactant | HCl | 13.02 mmol, 6 N, 2.17 mL | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | EtOH | 12.96 mmol, 4.2 g | CCO | C2H6O
product | 6-methyl-4-(4-morpholinylmethyl)-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 3.86 mmol, 0.90 g, 32.3% yield | CC1=CC(=C(C(N1)=O)C#N)CN1CCOCC1 | C12H15N3O2
